US08871753B2
6-Chloro-14-(2-thienylcarbonyl)-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene
The desired compound was prepared as a white powder according to the procedure of Example C22, step F, using 6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene and 2-thiophenecarbonyl chloride as the starting materials in 34% yield. LCMS for C22H17ClN5OS (M+H)+: m/z=434.0.

reactant | 6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | ClC=1C=NC=2NC=3C=CC=C(CNC4=CC=CC(NC1N2)=C4)C3 | C17H14ClN5
reactant | 2-thiophenecarbonyl chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
product | 6-Chloro-14-(2-thienylcarbonyl)-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | 34% yield | ClC=1C=NC=2NC=3C=CC=C(CN(C4=CC=CC(NC1N2)=C4)C(=O)C=4SC=CC4)C3 | C22H16ClN5OS
